US07235559B1
Concentrated sulphuric acid (64 ml) and concentrated nitric acid (10.0 ml, 0.152 mol) were added cautiously, over 1 hour, to a two-phase system containing a stirred solution of ethyl 4-(2,2,2-trifluoroethoxy)-3-methoxybenzoate (35.3 g, 0.127 mol) in dichloromethane (340 ml), acetic acid (173 ml) and water (40 ml) at 5° C. The reaction was allowed to warm to ambient temperature over 60 hours (with vigorous mechanical stirring), the aqueous phase was separated, and the organic phase washed with water (6×250 ml). The organic phase was concentrated to a total volume of ˜200 ml, isohexane (150 ml) was added and the solid which precipitated was collected by suction filtration. Drying of the solid in vacuo yielded ethyl-3-methoxy-4-(2,2,2-trifluoroethoxy)-6-nitrobenzoate (21.7 g, 52% yield) as a yellow solid. The mother liquors contained a mixture of product (28%) and starting material (72%) which was recycled in a latter reaction:

reactant | sulphuric acid | 64 ml | S(O)(O)(=O)=O | H2O4S
reactant | nitric acid | 0.152 mol, 10.0 ml | [N+](=O)(O)[O-] | HNO3
reactant | ethyl 4-(2,2,2-trifluoroethoxy)-3-methoxybenzoate | 0.127 mol, 35.3 g | FC(COC1=C(C=C(C(=O)OCC)C=C1)OC)(F)F | C12H13F3O4
solvent | dichloromethane | 340 ml | ClCCl | CH2Cl2
solvent | acetic acid | 173 ml | C(C)(=O)O | C2H4O2
solvent | water | 40 ml | O | H2O
product | ethyl-3-methoxy-4-(2,2,2-trifluoroethoxy)-6-nitrobenzoate | 21.7 g, 52% yield | C(C)OC(C1=CC(=C(C=C1[N+](=O)[O-])OCC(F)(F)F)OC)=O | C12H12F3NO6
